US06329402B1
Methyl 8-isopropyl-4-methoxyquinoline-2-carboxylate
In 10 ml of N,N-dimethylformamide were dissolved 700 mg of methyl 8-isopropylquinoline-2-carboxylate. To the resulting solution were added 1.2 g of potassium carbonate and 195 μl of methyl iodide, followed by stirring at 50° C. for one hour. The reaction mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gelcoluimn (developing solvent: 5% ethyl acetate/n-hexane), whereby 710 mg of the title compound were obtained in the form of a pale yellow solid.

reactant | methyl 8-isopropylquinoline-2-carboxylate | 700 mg | C(C)(C)C=1C=CC=C2C=CC(=NC12)C(=O)OC | C14H15NO2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 195 μl | CI | CH3I
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl 8-isopropyl-4-methoxyquinoline-2-carboxylate | 710 mg | C(C)(C)C=1C=CC=C2C(=CC(=NC12)C(=O)OC)OC | C15H17NO3
